US06008230
To a solution of 8-(2,6-dichlorobenzoylamino)-3-(1-hydroxyethyl)quinoline (562 mg) in dichloromethane (20 ml) was added manganese (IV) oxide (2.71 g), and the mixture was stirred at ambient temperature overnight. Insoluble material was filtered off, and the filtrate was concentrated in vacuo. The residue was crystallized from ethanol to give 3-acetyl-8-(2,6-dichlorobenzoylamino)quinoline (101 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-(1-hydroxyethyl)quinoline | 562 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)C(C)O)C(=CC=C1)Cl | C18H14Cl2N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | manganese (IV) oxide | 2.71 g | [O-2].[Mn+4].[O-2]
product | 3-acetyl-8-(2,6-dichlorobenzoylamino)quinoline | 101 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C18H12Cl2N2O2
